US08461270B2
18 mL (0.12 mmol) of N,N-dimethyl-o-toluidine was placed in a 200 mL glass vessel, to which a mixed solvent of 50 mL of hexane and 16 mL of diethyl ether was added under a nitrogen atmosphere. 50 mL (2.6 mol/L) of a hexane solution of n-butyllithium was slowly added dropwise to the solution under stirring at room temperature over 25 minutes, and the solution was further stirred at room temperature for 45 hours. After completing the reaction, the precipitate was filtered off, and the resulting solid matter was rinsed with hexane and dried under reduced pressure at room temperature to provide 13 g of dimethylaminobenzyllithium (LiCH2C6H4N(CH3)2-o) (yield: 77%).

reactant | N,N-dimethyl-o-toluidine | 0.12 mmol, 18 mL | CN(C=1C(=CC=CC1)C)C | C9H13N
reactant | diethyl ether | 16 mL | C(C)OCC | C4H10O
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 2.6 mol/L, 50 mL | CCCCCC | C6H14
reactant | hexane | 50 mL | CCCCCC | C6H14
product | dimethylaminobenzyllithium | 13 g, yield: 77% | CN(C)C(C1=CC=CC=C1)[Li] | InChI=1S/C9H12N.Li/c1-10(2)8-9-6-4-3-5-7-9;/h3-8H,1-2H3;
